US08633186B2
2-(3-methoxy-3-methylbutoxy)-6-nitrobenzonitrile
Prepared as in Example 215c from 3-methoxy-3-methylbutan-1-ol and 2,6-dinitrobenzonitrile in 52% yield. MS 265 (MH+).

reactant | 3-methoxy-3-methylbutan-1-ol | COC(CCO)(C)C | C6H14O2
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(3-methoxy-3-methylbutoxy)-6-nitrobenzonitrile | 52% yield | COC(CCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-])(C)C | C13H16N2O4
